US08604021B2
5-Chloro-2-hydroxy-3-methoxybenzaldehyde
o-Vanillin (100.5 g, 660 mmol), acetic acid (504 mL) and N-chlorosuccinimide (83.8 g, 627 mmol) were mixed and heated to 105° C. over 30 minutes. A rapid exotherm from 55 to 105° C. occurred over 7 minutes. The mixture refluxed for a few minutes and was allowed to cool slowly to room temperature (2.5 h). Water (1 L, 2 volume equivalents) was added to the mixture slowly over 10 minutes. The mixture was stirred for 5 minutes, filtered and the crude product air dried to afford 146.9 g of wet cake as a light yellow powder with 90% product, 3% o-vanillin and 7% dichlorovanillin Recrystallization from 200 g ethanol afforded 61 g (52% yield).

reactant | o-Vanillin | 660 mmol, 100.5 g | O=CC1=C(O)C(OC)=CC=C1 | C8H8O3
reactant | acetic acid | 504 mL | C(C)(=O)O | C2H4O2
reactant | N-chlorosuccinimide | 627 mmol, 83.8 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | Water | 1 L | O | H2O
product | 5-Chloro-2-hydroxy-3-methoxybenzaldehyde | 52% yield | ClC=1C=C(C(=C(C=O)C1)O)OC | C8H7ClO3
